US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl)benzoyl]-morpholine
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl)benzoic acid (50 mg, 0.1184 mmol) and morpholine (21 mg, 0.2413 mmol) were dissolved in methylene chloride (30 ml), then WSC-HCl (68 mg, 0.3547 mmol) was added thereto and the mixture was stirred for 16 hours at room temperature. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (hexane:ethyl acetate=1:1) to give the title compound (30 mg, 0.0613 mmol, 52%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl)benzoic acid | 0.1184 mmol, 50 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC=C(C=C1)OC)C)=O | C24H22O7
reactant | morpholine | 0.2413 mmol, 21 mg | N1CCOCC1 | C4H9NO
reactant | WSC HCl | 0.3547 mmol, 68 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(4-methoxyphenyl)benzoyl]-morpholine | 0.0613 mmol, 30 mg, 52% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)C1=CC=C(C=C1)OC)C)=O | C28H29NO7
